US06077859
3-Cyano-4-(2,2-dichloro-3-oxocyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
3-Cyano-1-(2,2-dichloro-4-trifluoromethylphenyl)-4-vinylpyrazole (5.00 g, 15.06 mmol, WO97/07102-A1) was dissolved in anhydrous diethyl ether (50 ml) in a dry, nitrogen-flushed flask. Activated zinc (2.97 g, 45.8 mmol) was added and the suspension was vigorously stirred. A mixture of trichloroacetyl chloride (3.57 ml, 37.65 mmol) and phosphorus oxychloride (4.1 ml, 37.65 mmol) in diethyl ether (20 ml) was added dropwise at room temperature via a pressure-equalising dropping funnel over a period of 30 minutes--the resulting exotherm being controlled by the rate of addition. On completion of addition, the mixture was heated to reflux for 4 hr then cooled to room temperature. The mixture was filtered and poured onto 200 ml of crushed ice before extracting with diethyl ether (3×100 ml). The combined organics were washed successively with saturated aqueous NaHCO3 solution and brine before drying over MgSO4, filtering, and evaporating the ether in vacuo to leave a black oil. This was purified by silica chromatography (eluting with 10% diethyl ether/hexane) to give 3.80 g of the title compound as a white solid.

reactant | 3-Cyano-1-(2,2-dichloro-4-trifluoromethylphenyl)-4-vinylpyrazole | 15.06 mmol, 5.00 g | C(#N)C1=NN(C=C1C=C)C1C(C=C(C=C1)C(F)(F)F)(Cl)Cl | C13H8Cl2F3N3
reactant | trichloroacetyl chloride | 37.65 mmol, 3.57 ml | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | phosphorus oxychloride | 37.65 mmol, 4.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | zinc | 45.8 mmol, 2.97 g | [Zn] | Zn
product | 3-Cyano-4-(2,2-dichloro-3-oxocyclobutyl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 3.80 g | C(#N)C1=NN(C=C1C1C(C(C1)=O)(Cl)Cl)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H6Cl4F3N3O
